US07018988B2
(2S,4EZ)-N-[(2RS)-2-hydroxy-2-(4-nitrophenyl)ethyl]-4-(methoxyimino)-1-[4-(2-pyridinyl)benzoyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 4-(2-pyridinyl)benzoic acid, and (1RS)-2-amino-1-(4-nitrophenyl)ethanol, the title compound was obtained in 63% purity by HPLC. MS(ESI+): m/z=504.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 4-(2-pyridinyl)benzoic acid | N1=C(C=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | (1RS)-2-amino-1-(4-nitrophenyl)ethanol | NCC(O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O3
product | (2S,4EZ)-N-[(2RS)-2-hydroxy-2-(4-nitrophenyl)ethyl]-4-(methoxyimino)-1-[4-(2-pyridinyl)benzoyl]-2-pyrrolidinecarboxamide | OC(CNC(=O)[C@H]1N(CC(C1)=NOC)C(C1=CC=C(C=C1)C1=NC=CC=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C26H25N5O6
